US04009130
To a 3-necked round bottom flask equipped with a mechanical stirrer, addition funnel and reflux condenser was added 3.12 grams of 90% potassium hydroxide, 100 ml. of water and 60 grams of N-methylpiperazine. The solution was cooled to 20° C with an ice bath and thereafter 38 grams of carbon disulfide was added drop-wise. When the addition of carbon disulfide had been completed, 100 ml. toluene was added and a Dean-Stark trap placed on the flask. The water was azeotroped off, followed by distillation of toluene. The solid salt was then dissolved in an equal amount of diethylene glycol to give a 50% solution of potassium N-methylpiperazine dithiocarbamate.

reactant | potassium hydroxide | 3.12 grams | [OH-].[K+]
reactant | water | O | H2O
reactant | N-methylpiperazine | 60 grams | CN1CCNCC1 | C5H12N2
reactant | carbon disulfide | 38 grams | C(=S)=S | CS2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | potassium N-methylpiperazine dithiocarbamate | C(N)([S-])=S.CN1CCNCC1.[K+] | InChI=1S/C5H12N2.CH3NS2.K/c1-7-4-2-6-3-5-7;2-1(3)4;/h6H,2-5H2,1H3;(H3,2,3,4);/q;;+1/p-1
